US06528504B2
4-Methoxyphenethyl tosylate (1.24 g, 4.05 mmol), sodium carbonate (430 mg, 4.06 mmol) and sodium iodide (40 mg, 0.26 mmol) were added to a solution of (S)-3-(4-nitrobenzoyloxy)pyrrolidine (799 mg, 3.38 mmol) in acetonitrile (40 ml), and they were heated under reflux at 90° C. for 3 hours. The insoluble material was removed by the filtration. The insoluble material was washed with ethyl acetate, and the wash solution was combined with the filtrate. The solvent was evaporated under reduced pressure. The obtained residue was subjected to silica gel column chromatography. The product was eluted with hexane and ethyl acetate (10:1) and then with a mixture of the same solvents (1:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain (S)-3-(4-nitrobenzoyloxy)-1-(4-methoxy-phenethyl)pyrrolidine in the form of a light yellow oil (1.00 g, 80%).

reactant | 4-Methoxyphenethyl tosylate | 4.05 mmol, 1.24 g | S(=O)(=O)(OCCC1=CC=C(C=C1)OC)C1=CC=C(C)C=C1 | C16H18O4S
reactant | sodium carbonate | 4.06 mmol, 430 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.26 mmol, 40 mg | [I-].[Na+]
reactant | (S)-3-(4-nitrobenzoyloxy)pyrrolidine | 3.38 mmol, 799 mg | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2CNCC2)C=C1 | C11H12N2O4
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | (S)-3-(4-nitrobenzoyloxy)-1-(4-methoxy-phenethyl)pyrrolidine | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2CN(CC2)CCC2=CC=C(C=C2)OC)C=C1 | C20H22N2O5
